US05679683
A solution of 2,4-dinitro-5-hydroxybenzamide (4.00 g, 0.018 mmol) in MeOH/EtOAc (1:1, 50 mL) is hydrogenated over 5% Pd/C at 60 psi for 3 h to give 2,4-diamino-5-hydroxybenzamide, which is used directly. Formic acid (50 mL) is added and the solution is heated under reflux for 48 h. then the volatiles are removed under reduced pressure. The residue is triturated with EtOAc to give crude 4-oxo-3H-oxazolo[5,4-g]quinazoline(3.27 g, 97%) as a tan powder which is used directly.

reactant | 2,4-dinitro-5-hydroxybenzamide | 0.018 mmol, 4.00 g | [N+](=O)([O-])C1=C(C(=O)N)C=C(C(=C1)[N+](=O)[O-])O | C7H5N3O6
solvent | MeOH EtOAc | 50 mL | CO.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | 2,4-diamino-5-hydroxybenzamide | NC1=C(C(=O)N)C=C(C(=C1)N)O | C7H9N3O2
